US09302988B2
Step 2: [1-Benzyl-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrol-2-yl]-(3,3-dimethyl-piperazin-1-yl)-methanone (SC-82)
To tert-butyl 4-(1-benzyl-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carbonyl)-2,2-dimethylpiperazine-1-carboxylate (103 mg, 0.178 mmol) in DCM (2 mL) was added TFA (0.234 mL, 3.03 mmol). The reaction mixture was stirred for 1 h and then cooled to 0° C. Saturated aqueous NaHCO3 (15 mL) was added. The aqueous layer was separated and extracted twice with DCM (10 mL). The combined organic phases were washed with brine (20 mL) and dried over Na2SO4. Concentration in vacuo was followed by flash chromatography (silica, gradient heptane/EtOAc, 1:0→0:1). Appropriate fractions were combined, solvents removed in vacuo and the product was placed with MeOH (5 mL) in a vial. The remaining oil was dried in vacuo at 40° C. over 6 h. SC-82 (58 mg, 67%) was obtained as a white foam.

reactant | tert-butyl 4-(1-benzyl-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carbonyl)-2,2-dimethylpiperazine-1-carboxylate | 0.178 mmol, 103 mg | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)N1CC(N(CC1)C(=O)OC(C)(C)C)(C)C | C30H33ClF3N3O3
reactant | TFA | 3.03 mmol, 0.234 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | [1-Benzyl-3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrol-2-yl]-(3,3-dimethyl-piperazin-1-yl)-methanone | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)N1CC(NCC1)(C)C | C25H25ClF3N3O
